US07011838B2
Using 0.3 g of (4-(trifluoromethoxy)benzyl)malononitrile, 5 ml of N,N-dimethylformamide, 0.073 g of cesium carbonate, and 0.35 g of 2,2,3,3,3-pentafluoropropyl trifluoromethanesulfonate, and according to the process described in the Production Example 1, there was obtained 0.12 g of 2-(2,2,3,3,3-pentafluoropropyl)-2-(4-(trifluoromethoxy)benzyl)malononitrile (the present compound (5)).

reactant | (4-(trifluoromethoxy)benzyl)malononitrile | 0.3 g | FC(OC1=CC=C(CC(C#N)C#N)C=C1)(F)F | C11H7F3N2O
reactant | cesium carbonate | 0.073 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,3,3,3-pentafluoropropyl trifluoromethanesulfonate | 0.35 g | FC(S(=O)(=O)OCC(C(F)(F)F)(F)F)(F)F | C4H2F8O3S
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(2,2,3,3,3-pentafluoropropyl)-2-(4-(trifluoromethoxy)benzyl)malononitrile | 0.12 g, Yield: 29% | FC(CC(C#N)(C#N)CC1=CC=C(C=C1)OC(F)(F)F)(C(F)(F)F)F | C14H8F8N2O
